US04273704
6.02 Grams of methyl Boc-L-tyrosyl-D-methionyl-glycinate is dissolved in 30 ml of methyl alcohol and water is added until the solution becomes cloudy. A 4 M solution of potassium hydroxide is added to maintain the pH at 12-13. When the pH is stable at 13 for 30 minutes, the methanol is removed under reduced pressure. The aqueous solution is filtered and adjusted to pH 3 with concentrated hydrochloric acid. The product crystallizes and is removed by filtration and washed with water to give Boc-L-tyrosyl-D-methionyl-glycine which is represented by the following formula

reactant | methyl Boc-L-tyrosyl-D-methionyl-glycinate | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCSC)C(=O)NCC(=O)OC | C22H33N3O7S
reactant | water | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | methyl alcohol | 30 ml | CO | CH4O
product | Boc-L-tyrosyl-D-methionyl-glycine | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCSC)C(=O)NCC(=O)O | C21H31N3O7S
